US04002647
10.9 g. of 6-hydroxy-2,3-dihydrobenzofuran are dissolved in 80 ml. of anhydrous dimethylformamide and treated, while stirring and with ice cooling at 0° C. with 5.3 g. of freshly powdered potassium hydroxide. The mixture is stirred for 1 hour at 0° C. under a nitrogen atmosphere and then added dropwise within 1 hour to a solution of 19.6 g. of 1-bromo-7-ethyl-3-methyl-2,6-nonadiene in 10 ml. of absolute tetrahydrofuran. The mixture is allowed to stir for 2 hours at 0° C. and for 2 hours at room temperature and then poured onto a mixture of 100 ml. of 10% by weight aqueous sodium hydroxide and 100 ml. of ice-water. The mixture is extracted three times with pentane, the extracts are washed successively with 10% by weight aqueous sodium hydroxide, water and saturated sodium chloride solution, dried over sodium sulfate and evaporated. By chromatography on silica gel with hexane/diethyl ether (19:1 parts by volume) there is obtained pure 6-[(7-ethyl-3-methyl-2,6-nonadienyl)-oxy]-2,3-dihydrobenzofuran which is distilled in a bulb-tube at 132° C./0.02 mmHg; nD20 = 1.5350.

reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-bromo-7-ethyl-3-methyl-2,6-nonadiene | BrCC=C(CCC=C(CC)CC)C | C12H21Br
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[(7-ethyl-3-methyl-2,6-nonadienyl)-oxy]-2,3-dihydrobenzofuran | C(C)C(=CCCC(=CCOC1=CC2=C(CCO2)C=C1)C)CC | C20H28O2
